### PR TITLE
feat(Tactic): convert now discharges side goals at reducible transparency

### PR DESCRIPTION
**Pull request by Vierkantor**
This PR changes the `postCongr!` discharge step of the `convert` tactic to operate at reducible transparency by default, just like the `preCongr!` step. This should make the behaviour more predictable since it does not unfold quite as much. `convert_to` and `ac_change` get a similar modification, since they are macros on top of `convert`.

To get back the old behaviour and work at default transparency, write `convert!`. To make Mathlib not break due to this change, we replace all occurrences of `convert` with `convert!` in the next commit.

Zulip discussion: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Mathlib.20code.20quality.3A.20simpa/with/594729278

---

- [x] depends on: #39715
- [x] depends on: #39721
- [ ] depends on: upcoming PRs that break this change into smaller chunks

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
How difficult is it to replace `convert!` by `convert` when the latter works?

**Comment by Vierkantor** [comment]
I'm working on it right now! (My idea was it pops up a `Try this: convert` message, so we can use Skimmer for auto-applying the changes.) It's not going to be completely trivial, since `convert` generally does not fail, just leaves more goals. So we have to run the two tactics in parallel and compare if the created goals are equivalent.

**Comment by Vierkantor** [comment]
I need to have dinner now, and it's going to be a busy weekend. If you'd like to push fixes, please go ahead! Otherwise I'll go and add a few more fixes in my unoccupied hours.

**Comment by JovanGerb** [comment]
Just to note, I had started another PR changing a setting in `convert` to make it more predictable and unfold less stuff (#38071), and there I also wanted to add a `convert!` for backward compatability.

I think that could fit together with the change in this PR by keeping `convert!` as the old behaviour in both aspects.

**Comment by Vierkantor** [comment]
I like the setting change in #38071! 

Since this PR causes quite a bit of downstream breakage in `congr!` I think the right way to go now is to only change `convert`(`!`) and preserve the old behaviour in `congr!` for now. I'll copy @JovanGerb's approach of a custom `Convert.Config` structure with different defaults, which should make it easy to integrate the two PRs, hopefully.

**Comment by Vierkantor** [comment]
Assuming build passes and we don't pick up more merge conflicts, I'm more or less happy with this PR. (There is the issue of some "Try this:" suggestions being slightly misformatted, which I would prefer to wait for the autoformatter.)

Let's think about how to get this merged without causing approximately a thousand merge conflicts. In [the Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Mathlib.20code.20quality.3A.20simpa/near/594904318) I have an idea for how to do so incrementally, what do you think?

File: Mathlib/Tactic/CongrExclamation.lean
Comment (joneugster) [inline Mathlib/Tactic/CongrExclamation.lean:1]: `@maintainer`: this is the relevant part of the change

File: Mathlib/Tactic/Convert.lean
Comment (joneugster) [inline Mathlib/Tactic/Convert.lean:1]: `@maintainer`: this is the relevant part of the change

File: Mathlib/Algebra/Category/Ring/Topology.lean [hunk 1]
```diff
@@ -177,8 +177,9 @@ lemma isEmbedding_pushout [IsTopologicalRing R] (φ : A ⟶ B) (ψ : A ⟶ C) :
     ((isEmbedding_graph continuous_id).prodMap Homeomorph.sumArrowHomeomorphProdArrow.isEmbedding)
   have H := (mvPolynomialHomeomorph B R A).symm.isEmbedding.prodMap
     (mvPolynomialHomeomorph C R A).symm.isEmbedding
-  convert ((H.comp hF).comp (mvPolynomialHomeomorph _ R A).isEmbedding).comp
-    (isEmbedding_precomp_of_surjective (R := R) fBC hfBC)
+  convert
+    ((H.comp hF).comp (mvPolynomialHomeomorph _ R A).isEmbedding).comp
+      (isEmbedding_precomp_of_surjective (R := R) fBC hfBC)
```
Comment (joneugster) [inline Mathlib/Algebra/Category/Ring/Topology.lean:184]:
```suggestion
  convert ((H.comp hF).comp (mvPolynomialHomeomorph _ R A).isEmbedding).comp
    (isEmbedding_precomp_of_surjective (R := R) fBC hfBC)
```
There is quite a few of these formatting changes without content. I assume they came from a script adding `convert!` first and then removing `!` again? Maybe it be better to undo these formatting changes?

(on the other hand, since we don't yet have an auto-formatter in use, I won't insist on reverting these formatting changes)

File: Mathlib/Algebra/MvPolynomial/Degrees.lean [hunk 2]
```diff
@@ -82,7 +82,8 @@ def degrees (p : MvPolynomial σ R) : Multiset σ :=
   p.support.sup fun s : σ →₀ ℕ => toMultiset s
 
 theorem degrees_def [DecidableEq σ] (p : MvPolynomial σ R) :
-    p.degrees = p.support.sup fun s : σ →₀ ℕ => Finsupp.toMultiset s := by rw [degrees]; convert rfl
+    p.degrees = p.support.sup fun s : σ →₀ ℕ => Finsupp.toMultiset s := by rw [degrees]; convert
+      rfl
```
Comment (joneugster) [inline Mathlib/Algebra/MvPolynomial/Degrees.lean:86]:
```suggestion
    p.degrees = p.support.sup fun s : σ →₀ ℕ => Finsupp.toMultiset s := by
  rw [degrees]
  convert rfl
```
if reformatted, then better without `;` which the style guide (weakly) prefers.

File: Mathlib/Tactic/Convert.lean [hunk 3]
```diff
@@ -274,8 +336,13 @@ example (a b c d e f g N : ℕ) : (a + b) + (c + d) + (e + f) + g ≤ N := by
 ```
 -/
 syntax (name := acChange) "ac_change " term (" using " num)? : tactic
+@[tactic_alt acChange]
```
Comment (joneugster) [inline Mathlib/Tactic/Convert.lean:339]:
```suggestion

@[tactic_alt acChange]
```

File: Mathlib/Tactic/Convert.lean [hunk 4]
```diff
@@ -190,14 +210,40 @@ def elabTermForConvert (term : Syntax) (expectedType? : Option Expr) :
...
   withMainContext do
-    let config ← Congr!.elabConfig (mkOptionalNode cfg)
+    let baseConfig := { ← Convert.elabConfig cfg with }
+    let mut config := baseConfig
+    if semireducible.isSome then
+      config := { config with
+        -- TODO: also enable this in the future? (Not right now, for backwards compatibility).
+        -- transparency := default,
+        -- preTransparency := default,
+        postTransparency := default }
```
Comment (joneugster) [inline Mathlib/Tactic/Convert.lean:222]: does that mean there is no way to override this using the config and when `postTransparency` explicitly it will just be ignored?

It's a bit odd to me that you can write `convert! (postTransparency := .reducible) ...` or `convert! (postTransparency := .default) ...` and they do the same thing as the argument is overwritten.

But I guess I don't have a better solution either.

File: Mathlib/Tactic/Convert.lean [hunk 5]
```diff
@@ -190,14 +210,40 @@ def elabTermForConvert (term : Syntax) (expectedType? : Option Expr) :
...
+              if !(← g₁.getDecl).lctx.isSubPrefixOf (← g₂.getDecl).lctx then return false
+              g₂.withContext <| withReducible <| isDefEq (← g₁.getType) (← g₂.getType)
+            catch _ => pure false
+          if sameGoals then
+            let tac ← `(tactic| convert%$tk $cfg $[←%$sym]? $term $[using $n]? $[with $ps?*]?)
+            TryThis.addSuggestion tk { suggestion := tac } (origSpan? := ← getRef)
+        return defaultGoals ++ gs
+    else
+      liftMetaTactic fun g ↦
+        return (← g.convert e sym.isSome (n.map (·.getNat)) config patterns) ++ gs
```
Comment (joneugster) [inline Mathlib/Tactic/Convert.lean:246]: I assume this was here for you to figure out which `!` to remove for this PR. Is your intent to keep this in for the final PR? Isn't that quite inefficient?

File: Mathlib/Tactic/Convert.lean [hunk 6]
```diff
@@ -226,14 +273,28 @@ pattern-matched, like `rintro` would, using the `with` keyword.
...
     $[with $ps?*]? $[$loc?:location]?) => do
   let n : ℕ := n |>.map (·.getNat) |>.getD 1
-  let config ← Congr!.elabConfig (mkOptionalNode cfg)
+    let mut config := { ← Convert.elabConfig cfg with }
+    if semireducible.isSome then
+      config := { config with
+        -- TODO: also enable this in the future? (Not right now, for backwards compatibility).
+        -- transparency := default,
+        -- preTransparency := default,
+        postTransparency := default }
```
Comment (joneugster) [inline Mathlib/Tactic/Convert.lean:297]: (same question as above)

File: Mathlib/Tactic/Convert.lean [hunk 7]
```diff
@@ -77,6 +77,16 @@ public meta section
 
 open Lean Meta Elab Tactic
 
+/-- Configuration for the `convert` family of tactics.
+This is `Congr!.Config` with different, less aggressive, defaults.
+-/
+structure Convert.Config extends Congr!.Config where
+  postTransparency := .reducible
```
Comment (joneugster) [inline Mathlib/Tactic/Convert.lean:84]: The docstring of this is being inherited and says the following, which I find slightly confusing:

> The transparency level to use when [...].
  For backwards compatibility this is set to `.default`, which will be changed soon to `.reducible`.

~~Are there plans to change the default values for `congr!` soon, too? If yes, does it still make sense to do all of this here when we'd potentially need/should to revert it again once the default is already `.reducible`?~~ I didn't read the comment above, sorry.

File: Mathlib/Tactic/Convert.lean [hunk 8]
```diff
@@ -226,14 +273,28 @@ pattern-matched, like `rintro` would, using the `with` keyword.
...
+| `(tactic| convert_to! $cfg $[←%$l]? $t $[using $n]? $[with $w]? $[$loc]?) =>
+    `(tactic| convert_to ! $cfg $[←%$l]? $t:term $[using $n]? $[with $w]? $[$loc]?)
 
 elab_rules : tactic
-| `(tactic| convert_to $[$cfg:config]? $[←%$sym]? $newType $[using $n]?
+| `(tactic| convert_to $[!%$semireducible]? $cfg $[←%$sym]? $newType $[using $n]?
     $[with $ps?*]? $[$loc?:location]?) => do
   let n : ℕ := n |>.map (·.getNat) |>.getD 1
-  let config ← Congr!.elabConfig (mkOptionalNode cfg)
+    let mut config := { ← Convert.elabConfig cfg with }
```
Comment (joneugster) [inline Mathlib/Tactic/Convert.lean:291]: wrong indent?

File: Mathlib/Tactic/Convert.lean (hunk 7 above)
Comment (joneugster) [reply Mathlib/Tactic/Convert.lean:84]: (we talked about this, this is fine)

**Comment by JovanGerb** [comment]
Now that all uses of `convert` have been changed to `convert!`, will we do the same for `convert_to!`?

Also, what do you think about `congr!`? Its name has an `!`, so it seems reasonable that it aggressively reduces. The problem is that the  name `congr` is already takes by a tactic in core. Should we just override `congr`? I can't think of many uses of the current `congr` tactic.

By the way, my other PR changing the behaviour of `convert` is about the following that I don't think `convert` should be doing:
```
example (f g : Nat → Prop) (a b : Nat) (h : f a) : g b := by
  convert h
  -- ⊢ g = f
  -- ⊢ b = a
```
It should only do congruence steps when the head function on both sides is the same. I'll wait with working on that PR until this one is merged to avoid merge conflicts.

**Comment by Vierkantor** [comment]
(Quick answer for this sentence, I'll write a full response when I am ready tomorrow.)

> I'll wait with working on that PR until this one is merged to avoid merge conflicts.

My plan is to get a PR ready which updates `convert`'s behaviour but doesn't replace any usages yet (except in `MathlibTest`). This should be compatible with your PR. And then when both changes are in we can do the replacement from `convert!` to `convert` without having to do any manual fixes (I hope!).

File: Mathlib/Tactic/Convert.lean (hunk 4 above)
Comment (Vierkantor) [reply Mathlib/Tactic/Convert.lean:222]: In #39928, I've come up with a solution involving two `structure` declarations with different default field values and their own `declare_config_elab` that we choose between.

File: Mathlib/Tactic/Convert.lean (hunk 5 above)
Comment (Vierkantor) [reply Mathlib/Tactic/Convert.lean:246]: This is indeed inefficient, but I don't know a good way to add the "Try this:" otherwise. I figure it might make a nice lint, perhaps hidden behind an off-by-default option? We could benchmark it in the final version.

**Comment by JovanGerb** [comment]
@Vierkantor, I presume you will close this PR and open a new one for the automatic replacements `convert!` -> `convert`?

Related to this, should we get some kind of linter that tells us when `convert!` can drop the `!`? This could be part of the weekly linting report, and could analogously be done for `simpa using!`.

**Comment by Vierkantor** [comment]
> I presume you will close this PR and open a new one for the automatic replacements convert! -> convert?

Yes, haven't managed to get around to this yet but it is still on the big list of things I want to do.

> Related to this, should we get some kind of linter that tells us when convert! can drop the !?

I was thinking this could be implemented in `convert!` itself, but maybe a weekly linter is better. I'd like for it to have usable `Try this:`-suggestions though!

**Comment by JovanGerb** [comment]
If the linter is part of `convert!` itself, it might give an unwanted slowdown. But probably it wouldn't be too bad. (And would be extra motivation to replace `convert!` with `convert`)

**Comment by Vierkantor** [comment]
Indeed, if we did the instrumentation in the `convert` internals we'd "only" have to pay for a few failed unifications at reducible transparency. On the other hand, if there are unifications which are slow reducibly and fast at default transparency, then a disablable linter would be better.
